US07968734B2
(S)—N-(2,2,2-Trifluoroacetyl)pyrrolidine-2-carboxamide (I).
A solution of trifluoroacetic acid (14 mL) in 48 mL of dichloromethane was added dropwise in 45 min into a stirring mixture of (S)-tert-butyl 2-(2,2,2-trifluoroacetylcarbamoyl)pyrrolidine-1-carboxylate (1.15 g, 3.70 mmol) and 28 mL of dichloromethane at room temperature. The solution was stirred for 2 h at room temperature, and the volatiles were removed under reduced pressure. The remaining viscous product was treated with ethyl ether (3×20 mL) to provide a white solid in 57% yield. (441 mg, 2.10 mmol). 1H NMR (500 MHz, CD3OD): δ 4.57 (t, 1H, J=7.5 Hz), 3.36-3.24 (m, 2H), 2.39-2.33 (m, 1H), 2.21-2.14 (m, 1H), 2.12-1.97 (m, 2H). 13C NMR (125 MHz, CD3OD): δ 163.5, 163.3, 163.0, 162.7, 121.6, 119.3, 116.9, 116.5, 114.6, 47.9, 47.0, 31.2, 24.5.

reactant | trifluoroacetic acid | 14 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-tert-butyl 2-(2,2,2-trifluoroacetylcarbamoyl)pyrrolidine-1-carboxylate | 3.70 mmol, 1.15 g | FC(C(=O)NC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)(F)F | C12H17F3N2O4
solvent | dichloromethane | 48 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 28 mL | ClCCl | CH2Cl2
product | (S)—N-(2,2,2-Trifluoroacetyl)pyrrolidine-2-carboxamide | 57% yield | FC(C(=O)NC(=O)[C@H]1NCCC1)(F)F | C7H9F3N2O2
